US04145432
To a mixture of 2-(N-methyl-N-benzylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate (630 mg) in pyridine (10 ml) was added a solution of acetyl chloride (146 mg) in methylene chloride (3 ml) under stirring and ice-cooling. The resultant mixture was further stirred at 50° to 60° C. for 2 hours. After removing the pyridine, water and ethyl acetate were added to the residue and the aqueous layer was adjusted to pH 4. The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure to give an oily substance (800 mg). This oily substance was subjected to column chromatography on silica gel with an eluent [a mixture of 2 parts of benzene and 1 part of ethyl acetate by volume] to give an oil (620 mg) of 2-(N-methyl-N-benzylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-acetoxymethyl-1,4-dihydropyridine-3-carboxylate.

reactant | 2-(N-methyl-N-benzylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate | 630 mg | CC=1NC(=C(C(C1C(=O)OCCN(CC1=CC=CC=C1)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)CO | C27H31N3O7
reactant | acetyl chloride | 146 mg | C(C)(=O)Cl | C2H3ClO
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-(N-methyl-N-benzylamino)ethyl 2-methyl-4-(3-nitrophenyl)-5-ethoxycarbonyl-6-acetoxymethyl-1,4-dihydropyridine-3-carboxylate | 620 mg | CC=1NC(=C(C(C1C(=O)OCCN(CC1=CC=CC=C1)C)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)COC(C)=O | C29H33N3O8
